US05616601
To a stirred mixture of 2-methylnicotinic acid (15.0 g, 0.111 mol) and 1,1'-carbonyldiimidazole (36.0 g, 0.222 mol) was added 300 mL of methylene chloride dropwise. The reaction mixture was stirred at room temperature overnight. Ammonia gas was distilled into the reaction mixture for 30 minutes using a dry ice condenser and the mixture was stirred at room temperature for an additional hour. Solvent was removed under vacuum and the residue was dissolved with 500 mL of acetonitrile. The solution was concentrated to half volume at low temperature and the product precipitated out as white solid. The crude mixture was recrystallized from ethanol/ether to give 11.5 g of 2-methylnicotinamide as a colorless crystal (76%): mp 160°-163° C. Anal. Calc'd. For C7H8N2O: C, 61.75, H, 5.92, N, 20.57. Found: C, 61.44, H, 6.14, N, 20.66.

reactant | 2-methylnicotinic acid | 0.111 mol, 15.0 g | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | 1,1'-carbonyldiimidazole | 0.222 mol, 36.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-methylnicotinamide | 11.5 g, 76% | CC1=C(C(=O)N)C=CC=N1 | C7H8N2O
